US07399759B2
6-(3-Hydroxypropyl)-2-pyridinecarbonitrile
3-(6-Cyano-2-pyridyl)propyl acetate (3.0 g, 14.7 mmol) was dissolved in methanol (15 ml), and potassium carbonate (0.08 g, 0.58 mmol) was added thereto. The reaction mixture was stirred at room temperature for 22 hrs and concentrated to give the titled compound (2.2 g, 92%).

reactant | 3-(6-Cyano-2-pyridyl)propyl acetate | 14.7 mmol, 3.0 g | C(C)(=O)OCCCC1=NC(=CC=C1)C#N | C11H12N2O2
reactant | potassium carbonate | 0.58 mmol, 0.08 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 15 ml | CO | CH4O
product | 6-(3-Hydroxypropyl)-2-pyridinecarbonitrile | 2.2 g, 92% | OCCCC1=CC=CC(=N1)C#N | C9H10N2O
